* D:\Projektek\Masters-thesis\LTspice\Numpad_clean_for_presentation.asc
R1 3V N011 {mc(1k,tol)}
S1 3V sw9/2... N006 N005 SW_1
V1 N006 N005 PULSE(0 1 0.11 1u 1u 0.09 2)
R2 N011 sw2/1... {mc(1k,tol)}
S2 N011 sw9/2... N014 N013 SW_1
V2 N014 N013 PULSE(0 1 0.21 1u 1u 0.09 2)
S4 sw2/1... sw9/2... N003 N002 SW_1
V4 N003 N002 PULSE(0 1 0.31 1u 1u 0.09 2)
R5 sw2/1... N008 {mc(1k,tol)}
S3 N008 sw9/2... N010 N009 SW_1
V5 N010 N009 PULSE(0 1 0.41 1u 1u 0.09 2)
R6 N008 N015 {mc(1k,tol)}
S6 N015 sw9/2... N017 N016 SW_1
V7 N017 N016 PULSE(0 1 0.51 1u 1u 0.09 2)
R7 N015 N020 {mc(1k,tol)}
S7 N020 sw9/2... N022 N021 SW_1
V8 N022 N021 PULSE(0 1 0.61 1u 1u 0.09 2)
R8 N020 N023 {mc(1k,tol)}
S8 N023 sw9/2... N025 N024 SW_1
V9 N025 N024 PULSE(0 1 0.71 1u 1u 0.09 2)
R9 N023 N026 {mc(1k,tol)}
S9 N026 sw9/2... N028 N027 SW_1
V10 N028 N027 PULSE(0 1 0.81 1u 1u 0.09 2)
R10 N026 N029 {mc(1k,tol)}
S10 N029 sw9/2... N031 N030 SW_1
V11 N031 N030 PULSE(0 1 0.91 1u 1u 0.09 2)
R4 N029 sw9/1... {mc(1k,tol)}
S11 sw9/1... sw9/2... N019 N018 SW_1
V12 N019 N018 PULSE(0 1 1.01 1u 1u 0.09 2)
R3 0 sw9/1... {mc(1k,tol)}
R11 sw9/2... 0 100k
C1 N004 0 1000p
R12 N004 sw9/2... 1k
XU3 0 3V N007 TL431
V3 5V 0 5
R14 3V N007 {mc(10k,tol)}
R15 N007 0 {mc(51k,tol)}
R16 3V 5V 1k
R17 3V 0 7.5k
XU2 3V N012 5V 0 N012 LT1632
R13 3Vmeasback N012 100
XU4 N004 N001 5V 0 N001 LT1632
R18 NUMPADmeasback N001 100
.step param X 0 4097 1
.Model SW_1 SW(Ron=1m Roff=100Meg Vt=0.5)
.lib opamp.sub
.param tol=0.001
.tran 1.5
* Voltage reference
* Measure the reference voltage
* Params
* Numpad voltage divider
* Rest of the drawing
.lib LTC.lib
.lib TL431.mod
.backanno
.end
