* C:\Users\Andris\Downloads\TL431\TL431_test.asc
V1 N001 0 25
R1 N002 N001 1k
R2 N002 N003 10k
R3 N003 0 51k
XU2 0 N002 N003 TL431
.tran 1
.lib TL431.mod
.backanno
.end
